US07973039B2
Step c) Formation of 2,2-dimethyl-6-morpholin-4-ylhex-4-ynal (A6)
To a solution of oxalyl chloride (152 μl; 1.74 mmol) in DCM (4 mL) at −78° C. was added a solution of DMSO (237 μl; 3.34 mmol) in DCM (2 mL). The mixture was stirred for 5 min before the addition of a solution of 2,2-dimethyl-6-morpholin-4-ylhex-4-yn-1-ol (307 mg; 1.45 mmol) in DCM (2 mL). The mixture was stirred again at −78° C. for 15 min and TEA (1.05 mL) was added. It was then brought back to rt and stirred for 2 h. Water was added. Organic phase was washed with a saturated solution of NaHCO3 and brine. It was dried over magnesium sulfate, filtrated and concentrated to give the title compound as a colorless oil (303 mg, quantitative). 1H NMR (CDCl3) δ: 9.51 (s, 1H), 3.73 (m, 4H), 3.27 (m, 2H), 2.56 (m, 4H), 2.36 (m, 2H), 1.14 (s, 6H).

reactant | oxalyl chloride | 1.74 mmol, 152 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 3.34 mmol, 237 μl | CS(=O)C | C2H6OS
reactant | 2,2-dimethyl-6-morpholin-4-ylhex-4-yn-1-ol | 1.45 mmol, 307 mg | CC(CO)(CC#CCN1CCOCC1)C | C12H21NO2
reactant | Water | O | H2O
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-6-morpholin-4-ylhex-4-ynal | 303 mg | CC(C=O)(CC#CCN1CCOCC1)C | C12H19NO2
